US08685981B2
(1e) 4-[2-(Tetrahydro-2H-pyran-4-yloxy)ethoxy]piperidine
Benzyl 4-[2-(tetrahydro-2H-pyran-4-yloxy)ethoxy]piperidine-1-carboxylate (505 mg, 1.39 mmol) produced in Reference Example 1 (1e) was dissolved in methanol (15 mL), to which palladium hydroxide (50 mg) was added, followed by stirring at room temperature for 18 hours under a hydrogen atmosphere. The resulting reaction liquid was filtered through Celite, and the solvent was distilled off under reduced pressure to give the desired title compound (318 mg, yield 100%).

reactant | Benzyl 4-[2-(tetrahydro-2H-pyran-4-yloxy)ethoxy]piperidine-1-carboxylate | 1.39 mmol, 505 mg | O1CCC(CC1)OCCOC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H29NO5
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium hydroxide | 50 mg | [OH-].[Pd+2].[OH-]
product | 4-[2-(Tetrahydro-2H-pyran-4-yloxy)ethoxy]piperidine | 318 mg, yield 100% | O1CCC(CC1)OCCOC1CCNCC1 | C12H23NO3
